### PR TITLE
[Merged by Bors] - feat(Algebra/Polynomial): add lemmas

### PR DESCRIPTION
**Pull request by mariainesdff**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/Basic.lean [hunk 1]
```diff
@@ -491,6 +491,14 @@ theorem C_mul_monomial : C a * monomial n b = monomial n (a * b) := by
 theorem monomial_mul_C : monomial n a * C b = monomial n (a * b) := by
   simp only [← monomial_zero_left, monomial_mul_monomial, add_zero]
 
+theorem C_finset_sum {α : Type*} (s : Finset α) (b : α → R) :
+    (s.sum fun x : α ↦ C (b x)) = C (s.sum b) := by
```
[the remark this answers is not in the document]
Comment (mariainesdff) [reply Mathlib/Algebra/Polynomial/Basic.lean]: I deleted this.

[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/Algebra/Polynomial/Basic.lean]: And you can replace `C_finset_prod` by [map_prod](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/BigOperators/Group/Finset/Defs.html#map_prod), right?

File: Mathlib/Algebra/Polynomial/Lifts.lean [hunk 2]
```diff
@@ -228,4 +228,25 @@ theorem smul_mem_lifts {p : S[X]} (r : R) (hp : p ∈ lifts (algebraMap R S)) :
 
 end Algebra
 
+section IsSimpleRing
+
+variable {R S : Type*} [CommRing R] [IsSimpleRing R] [CommRing S] [Nontrivial S] [Algebra R S]
+
+theorem monic_of_eq_finprod (p : R[X]) {n : ℕ} (b : Fin n → S)
+    (hp : mapAlg R S p = finprod fun k : Fin n ↦ X - C (b k)) : p.Monic := by
```
Comment (alreadydone) [inline Mathlib/Algebra/Polynomial/Lifts.lean:236]: I think you could add `Finset.prod` and `finprod` versions of [Polynomial.monic_prod_multiset_X_sub_C](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Roots.html#Polynomial.monic_prod_multiset_X_sub_C), and separately add an `mapAlg` version of `monic_of_injective` (that assumes [Semiring R] [Semiring S] [FaithfulSMul R S]), and then this theorem and the next could be removed, because the proofs would be just something like
```
`monic_of_faithfulSMul (hp ▸ monic_finprod_multiset_X_sub_C _ _ fun m _ ↦ monic_X_sub_C (b m))`

File: Mathlib/Algebra/Polynomial/RingDivision.lean [hunk 3]
```diff
@@ -130,6 +130,17 @@ theorem mem_nonZeroDivisors_of_leadingCoeff {p : R[X]} (h : p.leadingCoeff ∈ R
 
 end nonZeroDivisors
 
+section IsSimpleRing
+
+variable [IsSimpleRing R] [CommRing S] [Nontrivial S] [Algebra R S]
+
+theorem natDegree_pos_of_monic_of_root {p : R[X]} (hp : p.Monic) {x : S} (hx : aeval x p = 0) :
```
Comment (alreadydone) [inline Mathlib/Algebra/Polynomial/RingDivision.lean:137]: Same here: instead of assuming [IsSimpleRing R] [Nontrivial S], assuming [FaithfulSMul R S] would be more general.

File: Mathlib/Algebra/Polynomial/Lifts.lean [hunk 4]
```diff
@@ -226,6 +226,10 @@ theorem smul_mem_lifts {p : S[X]} (r : R) (hp : p ∈ lifts (algebraMap R S)) :
   rw [mem_lifts_iff_mem_alg] at hp ⊢
   exact Subalgebra.smul_mem (mapAlg R S).range hp r
 
+theorem monic_of_faithfulSMul [FaithfulSMul R S] {p : Polynomial R} (hp : (mapAlg R S p).Monic) :
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/Lifts.lean:229]:
```suggestion
theorem monic_of_monic_mapAlg [FaithfulSMul R S] {p : Polynomial R} (hp : (mapAlg R S p).Monic) :
```

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 5]
```diff
@@ -612,11 +612,20 @@ lemma exists_eval_ne_zero_of_natDegree_lt_card (f : R[X]) (hf : f ≠ 0) (hfR :
...
+  monic_prod_of_monic _ _ fun a _ => monic_X_sub_C a
+
 theorem prod_multiset_root_eq_finset_root [DecidableEq R] :
     (p.roots.map fun a => X - C a).prod =
       p.roots.toFinset.prod fun a => (X - C a) ^ rootMultiplicity a p := by
   simp only [count_roots, Finset.prod_multiset_map_count]
 
+omit [IsDomain R] in
+theorem monic_finprod_X_sub_C {α : Type*} (b : α → R):
+    Monic (finprod fun k ↦ X - C (b k)) := by
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/Roots.lean:626]:
```suggestion
    Monic (∏ᶠ k, X - C (b k)) := by
```

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 6]
```diff
@@ -612,11 +612,20 @@ lemma exists_eval_ne_zero_of_natDegree_lt_card (f : R[X]) (hf : f ≠ 0) (hfR :
 theorem monic_prod_multiset_X_sub_C : Monic (p.roots.map fun a => X - C a).prod :=
   monic_multiset_prod_of_monic _ _ fun a _ => monic_X_sub_C a
 
+theorem monic_finset_prod_X_sub_C [DecidableEq R] :
+    Monic (p.roots.toFinset.prod fun a => (X - C a)) :=
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/Roots.lean:616]: This looks strange to me. Why do you need to consider this polynomial?

File: Mathlib/Algebra/Polynomial/RingDivision.lean [hunk 7]
```diff
@@ -130,6 +130,12 @@ theorem mem_nonZeroDivisors_of_trailingCoeff {p : R[X]} (h : p.trailingCoeff ∈
 
 end nonZeroDivisors
 
+theorem natDegree_pos_of_monic_of_root [Nontrivial R] [Semiring S] [Algebra R S]
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/RingDivision.lean:133]:
```suggestion
theorem natDegree_pos_of_monic_of_aeval_eq_zero [Nontrivial R] [Semiring S] [Algebra R S]
```

**Review by erdOne — COMMENTED** [review]
Some nitpicks

File: Mathlib/Algebra/Polynomial/Roots.lean (hunk 6 above)
Comment (mariainesdff) [reply Mathlib/Algebra/Polynomial/Roots.lean:616]: I was asked to add this above by @alreadydone (see [this comment](https://github.com/leanprover-community/mathlib4/pull/23252#discussion_r2024735424)). Then I can use the multiset version of this lemma to conclude the  (now deleted) lemma `monic_of_eq_multiset_prod` from my first commit, which I use in the proof of the theorem [max_norm_root_eq_spectralValue]( https://github.com/leanprover-community/mathlib4/blob/93ae61b28bd4d73b02b6e916e8a4b04b91a9e9f5/Mathlib/Analysis/Normed/Unbundled/SpectralNorm.lean#L268) (if `f` is a nonarchimedean, power-multiplicative `K`-algebra norm on `L`, then the spectral value of a polynomial `p : K[X]` that decomposes into linear factos in `L` is equal to the maximum of the norms of the roots).

Comment (erdOne) [reply Mathlib/Algebra/Polynomial/Roots.lean:616]: This is the product of $X - r_i$ where $r_i$ runs through all the **unique** roots, i.e the squarefree-part of a polynomial. I just want to make sure if this is what you really want?

Comment (mariainesdff) [reply Mathlib/Algebra/Polynomial/Roots.lean:616]: I could delete this, I only really want the `Multiset` lemma (but maybe we should see what @alreadydone thinks, since he asked me to add this version).

**Review by alreadydone — APPROVED** [review]

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 8]
```diff
@@ -609,9 +609,21 @@ lemma exists_eval_ne_zero_of_natDegree_lt_card (f : R[X]) (hf : f ≠ 0) (hfR :
...
 
-theorem monic_prod_multiset_X_sub_C : Monic (p.roots.map fun a => X - C a).prod :=
+section
+
+omit [IsDomain R]
+
+theorem monic_prod_multiset_X_sub_C (s : Multiset R) : Monic (s.map fun a => X - C a).prod :=
   monic_multiset_prod_of_monic _ _ fun a _ => monic_X_sub_C a
 
+theorem monic_finset_prod_X_sub_C (s : Finset R) : Monic (∏ a ∈ s, (X - C a)) :=
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/Roots.lean:619]:
```suggestion
theorem monic_finset_prod_X_sub_C {α : Type*} (b : α → R) (s : Finset α) : Monic (∏ i ∈ s, (X - C (b i))) :=
```
Hopefully the proof just works

Comment (alreadydone) [reply Mathlib/Algebra/Polynomial/Roots.lean:619]: And should we omit `finset` from the name? It seems `Finset.prod` is the default product and [Polynomial.monic_prod_of_monic](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Monic.html#Polynomial.monic_prod_of_monic), [map_prod](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/BigOperators/Group/Finset/Defs.html#map_prod) etc. don't have Finset in its name.

Comment (erdOne) [reply Mathlib/Algebra/Polynomial/Roots.lean]: And arguably `monic_prod_multiset_X_sub_C` should be `monic_multiset_prod_X_sub_C` instead...
It's fine if it is not done in this PR.

Comment (alreadydone) [reply Mathlib/Algebra/Polynomial/Roots.lean]: `multiProd`, rather. There are [some decls](https://loogle.lean-lang.org/?q=%22multisetprod%22) that already adopted this convention.

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 9]
```diff
@@ -613,7 +613,7 @@ section
 
 omit [IsDomain R]
 
-theorem monic_prod_multiset_X_sub_C (s : Multiset R) : Monic (s.map fun a => X - C a).prod :=
+theorem monic_multisetProd_X_sub_C (s : Multiset R) : Monic (s.map fun a => X - C a).prod :=
```
Comment (alreadydone) [inline Mathlib/Algebra/Polynomial/Roots.lean:616]: Can you add deprecations please?
[Polynomial.monic_multiset_prod_of_monic](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Monic.html#Polynomial.monic_multiset_prod_of_monic) and [Polynomial.Monic.nextCoeff_multiset_prod](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Monic.html#Polynomial.Monic.nextCoeff_multiset_prod) should probably also be renamed, maybe in another PR.

**Review by alreadydone — APPROVED** [review]
Thanks 🎉 
maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
